US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-morpholinoethanol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-morpholin-4-yl-ethyl ester. MS (ES+) m/z calcd. for C37H41Cl2F2N4O5: [(M+H)+]: 729. found: 729.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-morpholinoethanol | O1CCN(CC1)CCO | C6H13NO2
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-morpholin-4-yl-ethyl ester | N1(CCOCC1)CCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | C37H40Cl2F2N4O5
